US07470377B2
2,5-Bis(trimethylstannyl)selenophene
To a solution of selenophene (7.4 g, 56.5 mmol) in a solution of anhydrous hexane (90 ml) and TMEDA (17.4 g, 150 mmol) at 0° C. under nitrogen is added a solution of n-BuLi (55 ml of a 2.5M solution in hexanes, 137.5 mmol) dropwise over 5 min. The resulting solution is refluxed for 30 min and then cooled to 0° C. and trimethyltin chloride (25.6 g, 129 mmol) is added at once as a solid. The resulting solution is allowed to warm to room temperature and stirred at that temperature for 20 h. The solution is quenched with water (100 ml), and ethyl acetate (100 ml) is added. The layers are separated and the organic layer is washed with further water (4×100 ml), brine (100 ml), dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting solid is recrystallized from acetonitrile four times to afford the product as white needles (25.8 g, 83%). M/Z cluster centered at 456 (M+). Found C, 26.3; H, 4.6. Calc. for C10H20SeSn2 C, 26.3; H, 4.2. 1H NMR (300 MHz, CDCl3) δ 7.68 (s, 2H), 0.37 (s, 18H). 13C NMR (75 MHz, CDCl3) δ 150.2, 138.7, −7.7.

reactant | selenophene | 56.5 mmol, 7.4 g | [Se]1C=CC=C1 | C4H4Se
reactant | TMEDA | 150 mmol, 17.4 g | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | [Li]CCCC
reactant | trimethyltin chloride | 129 mmol, 25.6 g | C[Sn](C)(C)Cl
solvent | hexane | 90 ml | CCCCCC | C6H14
product | 2,5-Bis(trimethylstannyl)selenophene | 25.8 g, 83% | C[Sn](C=1[Se]C(=CC1)[Sn](C)(C)C)(C)C | InChI=1S/C4H2Se.6CH3.2Sn/c1-2-4-5-3-1;;;;;;;;/h1-2H;6*1H3;;
